US06323217B2
Step 1: 4-Bromo-5-nitroi-soquinoline
Add 11 g of 4-bromoisoquinoline to 45 ml of sulphuric acid, followed, dropwise, by a solution of 9.1 g of potassium nitrate in 45 ml of sulphuric acid whilst cooling in an ice-bath. The reaction mixture is stirred at room temperature for 2 hours 30, before being poured onto ice. After the resulting solution has been rendered basic with ammonium hydroxide, the crystals are filtered off, washed and dried to yield the expected product.

reactant | 4-bromoisoquinoline | 11 g | BrC1=CN=CC2=CC=CC=C12 | C9H6BrN
reactant | potassium nitrate | 9.1 g | [N+](=O)([O-])[O-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulphuric acid | 45 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 45 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Bromo-5-nitroi-soquinoline | BrC1=CN=CC2=CC=CC(=C12)[N+](=O)[O-] | C9H5BrN2O2
